US04826852
30 g of pulverized potassium hydroxide is added to a solution of 7.65 g of 9,10-didehydroergoline-8-carboxylic acid methyl ester (28.5 mmol) and 1.22 g of tetrabutylammonium hydrogen sulfate in 900 ml of methylene chloride, and then 125 ml of trichloroethyl chloroformate is added dropwise thereto. After 15 minutes, the mixture is cooled in an ice bath, gently combined with about 300 ml of saturated sodium bicarbonate solution, and stirred for one hour. After extraction with chloroform, this phase is washed with water, dried over magnesium sulfate, and evaporated. The crude product is chromatographed on silica gel with chloroform and methanol, yielding 13.85 g (79% of theory) of 9,10-didehydro-1,6-bis(2,2,2-trichloroethoxycarbonyl)-8-ergolinecarboxylic acid methyl ester as an oily mixture of isomers.

reactant | potassium hydroxide | 30 g | [OH-].[K+]
reactant | 9,10-didehydroergoline-8-carboxylic acid methyl ester | 28.5 mmol, 7.65 g | COC(=O)C1CN[C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34 | C16H16N2O2
reactant | trichloroethyl chloroformate | 125 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | sodium bicarbonate | about 300 ml | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium hydrogen sulfate | 1.22 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 900 ml | C(Cl)Cl | CH2Cl2
product | 9,10-didehydro-1,6-bis(2,2,2-trichloroethoxycarbonyl)-8-ergolinecarboxylic acid methyl ester | 13.85 g, 79% | COC(=O)C1CN([C@@H]2CC3=CN(C4=CC=CC(C2=C1)=C34)C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C22H18Cl6N2O6
